### PR TITLE
[Merged by Bors] - feat(Complex/Order): add some results about multiplication of a real and a complex

### PR DESCRIPTION
**Pull request by xroblot**
This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Order.lean [hunk 1]
```diff
@@ -63,6 +63,32 @@ theorem nonneg_iff {z : ℂ} : 0 ≤ z ↔ 0 ≤ z.re ∧ 0 = z.im :=
...
+
+theorem ofReal_mul_neg_iff (x : ℝ) (z : ℂ) :
+    x * z < 0 ↔ (x < 0 ∧ 0 < z) ∨ (0 < x ∧ z < 0) := by
+  simp_rw [pos_iff, neg_iff, re_ofReal_mul, im_ofReal_mul]
+  obtain hx | hx | hx := lt_trichotomy x 0
+  · simp_rw [mul_neg_iff, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne, false_and, true_and, false_or,
+      or_false, eq_comm]
+  · simp_rw [hx, zero_mul, lt_self_iff_false, false_and, false_or]
+  · simp_rw [mul_neg_iff, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne', false_and, true_and, false_or,
+      or_false]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Order.lean:90]: untested, but something like this should work:
```suggestion
  simpa only [mul_neg, neg_pos, neg_neg_iff_pos] using ofReal_mul_pos_iff x (-z)
```

Comment (xroblot) [reply Mathlib/Data/Complex/Order.lean:90]: Hum, that doesn't seem to work because the corresponding `CovariantClass ℂ ℂ` instance is missing for `neg_pos`. In fact, I don't think it holds in this case.

Comment (j-loreaux) [reply Mathlib/Data/Complex/Order.lean:90]: @xroblot no, this definitely works, it's just that Mathlib doesn't know `ℂ` is `StrictOrderedCommRing` until `Analysis.Complex.Basic` because it gets the `RCLike.toStrictOrderedCommRing` instance. You can see this in the playground:
```
import Mathlib.Data.Complex.Order
import Mathlib.Analysis.Complex.Basic

open ComplexOrder Complex

theorem nonpos_iff {z : ℂ} : z ≤ 0 ↔ z.re ≤ 0 ∧ z.im = 0 :=
  le_def

theorem neg_iff {z : ℂ} : z < 0 ↔ z.re < 0 ∧ z.im = 0 :=
  lt_def

theorem ofReal_mul_pos_iff (x : ℝ) (z : ℂ) :
    0 < x * z ↔ (x < 0 ∧ z < 0) ∨ (0 < x ∧ 0 < z) := by
  simp_rw [pos_iff, neg_iff, re_ofReal_mul, im_ofReal_mul]
  obtain hx | hx | hx := lt_trichotomy x 0
  · simp_rw [mul_pos_iff, eq_comm, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne, false_and, true_and,
      false_or, or_false]
  · simp_rw [hx, zero_mul, lt_self_iff_false, false_and, false_or]
  · simp_rw [mul_pos_iff, eq_comm, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne', false_and, true_and,
      false_or, or_false]

theorem ofReal_mul_neg_iff (x : ℝ) (z : ℂ) :
    x * z < 0 ↔ (x < 0 ∧ 0 < z) ∨ (0 < x ∧ z < 0) := by
  simpa only [mul_neg, neg_pos, neg_neg_iff_pos] using ofReal_mul_pos_iff x (-z)
```
Obviously we can't import that here.

I think probably what you want is to either copy the proofs of `RCLike.toStrictOrderedCommRing` and `RCLike.toStarOrderedRing` into this file, or else prove these lemmas for `RCLike` and move them to the later file.

I would suggest the latter, unless for some reason you really only want these lemmas for `ℂ` and you really want to avoid importing analysis into wherever you use them.

Comment (xroblot) [reply Mathlib/Data/Complex/Order.lean]: Sorry, I completely missed that point. 

Anyway, thanks for the explanation. I moved the results to `RCLike.Basic`.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 2]
```diff
@@ -872,6 +872,20 @@ instance {A : Type*} [NonUnitalRing A] [StarRing A] [PartialOrder A] [StarOrdere
...
 scoped[ComplexOrder] attribute [instance] StarModule.instOrderedSMul
 
+theorem ofReal_mul_pos_iff (x : ℝ) (z : K) :
+    0 < x * z ↔ (x < 0 ∧ z < 0) ∨ (0 < x ∧ 0 < z) := by
+   simp_rw [pos_iff (z := x * z), pos_iff (z := z), neg_iff (z := z), re_ofReal_mul, im_ofReal_mul]
+   obtain hx | hx | hx := lt_trichotomy x 0
+   · simp_rw [mul_pos_iff, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne, false_and, true_and,
+      false_or, or_false]
+   · simp_rw [hx, zero_mul, lt_self_iff_false, false_and, false_or]
+   · simp_rw [mul_pos_iff, mul_eq_zero, hx, not_lt_of_gt hx, hx.ne', false_and, true_and,
```
Comment (loefflerd) [inline Mathlib/Analysis/RCLike/Basic.lean:882]: does `simp only` work here? also, indenting is slightly nonstandard

Comment (xroblot) [reply Mathlib/Analysis/RCLike/Basic.lean:882]: Yeah, sorry about the indenting. I'll fix that. 

`simp only` does work indeed. Do you think it's better than using `simp_rw`?

Comment (xroblot) [reply Mathlib/Analysis/RCLike/Basic.lean:882]: I didn't know that. Thanks for the input. I was mostly using `simp_rw` because I like to see terms changing step by step. I find it quite rewarding :) 

BTW, David, if you have a little time can I interest you in having a look at #18166. I need the result way but I am not sure the way I prove it is the right one.

Comment (loefflerd) [reply Mathlib/Analysis/RCLike/Basic.lean]: Already on the case :-)

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 3]
```diff
@@ -872,6 +872,20 @@ instance {A : Type*} [NonUnitalRing A] [StarRing A] [PartialOrder A] [StarOrdere
 
 scoped[ComplexOrder] attribute [instance] StarModule.instOrderedSMul
 
+theorem ofReal_mul_pos_iff (x : ℝ) (z : K) :
+    0 < x * z ↔ (x < 0 ∧ z < 0) ∨ (0 < x ∧ 0 < z) := by
+  simp_rw [pos_iff (z := x * z), pos_iff (z := z), neg_iff (z := z), re_ofReal_mul, im_ofReal_mul]
```
Comment (loefflerd) [inline Mathlib/Analysis/RCLike/Basic.lean:877]: Slightly quicker alternative:
```suggestion
  simp only [pos_iff (K := K), neg_iff (K := K), re_ofReal_mul, im_ofReal_mul]
```

**Comment by loefflerd** [comment]
LGTM now, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
